US07528158B2
To a solution of 5-amino-1-benzyl-1,2-dihydro-indazol-3-one (0.04 g) in pyridine (1 mL) was added 3-chloro-2-methylbenzenesulfonylchoride (0.038 g) in one go. The solution was stirred at 60° C. for 24 hours. The pyridine was then removed in vacuo and the residue was dissolved in EtOAc/water and separated. The aqueous phase was extracted a further two times with EtOAc and the combined organic phases were washed with brine and dried over sodium sulfate. The drying agent was removed by filtration and the volatiles were removed in vacuo to afford a crude residue. The crude material was purified via flash column chromatography eluting with EtOAc/nHeptane/1% AcOH) to afford the desired N-(1-benzyl-3-oxo-2,3-dihydro-1H-indazol-5-yl)-3-chloro-2-methyl-benzenesulfonamide (0.015 g) as a pale yellow powder. MS (ESI+): 428.4 ([M+H]+).

reactant | 5-amino-1-benzyl-1,2-dihydro-indazol-3-one | 0.04 g | NC=1C=C2C(NN(C2=CC1)CC1=CC=CC=C1)=O | C14H13N3O
reactant | 3-chloro-2-methylbenzenesulfonylchoride | 0.038 g | ClC=1C(=C(C=CC1)S(=O)(=O)Cl)C | C7H6Cl2O2S
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | N-(1-benzyl-3-oxo-2,3-dihydro-1H-indazol-5-yl)-3-chloro-2-methyl-benzenesulfonamide | 0.015 g | C(C1=CC=CC=C1)N1NC(C2=CC(=CC=C12)NS(=O)(=O)C1=C(C(=CC=C1)Cl)C)=O | C21H18ClN3O3S
